US05086049
Ethyl 6-fluoro-7-[4-(5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl-1-piperazinyl]-4-oxo-1-phenyl-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate)
Ethyl 6-fluoro-4-oxo-1-phenyl-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate (3.0 g) and 0.82 g of potasium bicarbonate were suspended in 50 ml of N,N-dimethylformamide, 1.58 g of 4-bromomethyl-5-methyl-1,3-dioxolen-2-one was dropped thereinto with ice cooling, and the mixture was stirred for 3 hours. After the reaction, the mixture was poured over into ice water and the crystals separated out therefrom were collected by filtration. They were then dissolved in chloroform, the solution was washed with water, and evaporated/dried in vacuo. The resulting oily residue was purified by a column chromatography (silica gel/methanolchloroform [1:50]) to give 2.47 g of desired product, mp, 223°-226° C. (decompn.).

reactant | Ethyl 6-fluoro-4-oxo-1-phenyl-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 3.0 g | FC=1C=C2C(C(=C3N(C2=CC1N1CCNCC1)C(S3)C3=CC=CC=C3)C(=O)OCC)=O | C23H22FN3O3S
reactant | potasium bicarbonate | 0.82 g | C([O-])(O)=O.[K+]
reactant | 4-bromomethyl-5-methyl-1,3-dioxolen-2-one | 1.58 g | BrCC=1OC(OC1C)=O | C5H5BrO3
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-fluoro-7-[4-(5-methyl-2-oxo-1,3-dioxolen-4-yl)methyl-1-piperazinyl]-4-oxo-1-phenyl-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 2.47 g | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)CC=1OC(OC1C)=O)C(S3)C3=CC=CC=C3)C(=O)OCC)=O | C28H26FN3O6S
